US07989620B2
d) 4-{[(Trifluoromethyl)sulfonyl]oxy}-1,2,3,6-tetrahydropyridinium chloride
tert-Butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate (3.77 g, 11.4 mmol) was mixed with THF (15 mL) and concentrated hydrochloric acid (15 mL). After 1 hour, the mixture was evaporated and dried by azeotropic evaporation with toluene and methanol to give a beige solid (88%) that could be used without further purification.

reactant | tert-Butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | 11.4 mmol, 3.77 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-{[(Trifluoromethyl)sulfonyl]oxy}-1,2,3,6-tetrahydropyridinium chloride | 88% | [Cl-].FC(S(=O)(=O)OC=1CC[NH2+]CC1)(F)F | InChI=1S/C6H8F3NO3S.ClH/c7-6(8,9)14(11,12)13-5-1-3-10-4-2-5;/h1,10H,2-4H2;1H
